US04382151
Synthesis of 6,10,14,18-tetramethyl-5,9,13,17-nonadecatetraene-2-ol
1 g of 6,10,14,18-tetramethyl-5,9,13,17-nonadecatetraene-2-on was dissolved in 20 ml. of methanol. 60 mg of sodium borohydride was added to the solution and the whole was stirred for 30 minutes. The reaction liquid was poured in ice-water. Dilute hydrochloric acid solution was added thereto to make the same acidic. The liquid was then subjected to the extraction with 50 ml. of n-hexane. The extract was washed with water and dried with magnesium sulfate. The solvent was distilled out to obtain 1 g of an oily product. The product was purified according to silica gel column chromatography to obtain 0.95 g of the intended product in the form of a colorless oil from 10% ether/n-hexane effluent.

reactant | 6,10,14,18-tetramethyl-5,9,13,17-nonadecatetraene-2-on | 1 g | CC(=CCCC(C)=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C23H38O
reactant | sodium borohydride | 60 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 6,10,14,18-tetramethyl-5,9,13,17-nonadecatetraene-2-ol | 1 g | CC(=CCCC(C)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C23H40O
